US08193349B2
To a solution of cis-trans mixture of 3-hydroxy-cyclobutanecarboxylic acid methyl ester (1.30 g, 10 mmol) in DMF 13 mL, NaH (50% in oil, 720 mg, 15 mmol) is added at 0° C. After stirring at 0° C. for 15 minutes, benzyl bromide (1.43 ml, 12 mmol) is added at 0° C. The mixture is stirred at room temperature for 2 hours and quenched with H2O. The solution is extracted with AcOEt. The organic layer is washed with H2O and brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography to give trans-3-benzyloxy-cyclobutanecarboxylic acid methyl ester (340 mg, 15.4%); TLC (hexane/AcOEt, 5:1) Rf 0.40, 1H NMR (400 MHz, chloroform-d) ppm 2.26-2.34 (m, 2H), 2.48-2.52 (m, 2H), 3.02-3.06 (m, 1H), 3.69 (s, 3H), 4.26-4.33 (m, 1H), 4.42 (s, 2H), 7.27-7.35 (m, 5H).

reactant | 3-hydroxy-cyclobutanecarboxylic acid methyl ester | 10 mmol, 1.30 g | COC(=O)C1CC(C1)O | C6H10O3
reactant | NaH | 15 mmol, 720 mg | [H-].[Na+]
reactant | benzyl bromide | 12 mmol, 1.43 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | trans-3-benzyloxy-cyclobutanecarboxylic acid methyl ester | 340 mg, 15.4% | COC(=O)[C@@H]1C[C@H](C1)OCC1=CC=CC=C1 | C13H16O3
